US08629270B2
N-[(4aR,7aR)-6-[5-Fluoro-4-(1-hydroxy-1-methyl-ethyl)-6-methyl-pyrimidin-2-yl]-7a-isothiazol-5-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide
(2-Chloro-5-fluoro-6-methyl-pyrimidin-4-yl)propan-2-ol (104 mg, 0.51 mmol) is dissolved in 1,4-dioxane (3 mL). N-[(4aR,7aR)-7a-Isothiazol-5-yl-4a,5,6,7-tetrahydro-4H-pyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide (125 mg, 0.36 mmol) is added followed by diisopropylethylamine (158 μL, 0.91 mmol). The reaction is heated via microwave irradiation in a sealed microwave vessel to 110° C. for 1 hr. The reaction is concentrated to give the crude product. The crude product is purified via HPLC using a Waters XBridge 5 μm C18 OBD 30×75 mm column and eluted with a gradient of: 36% B isocratic for 3 min followed by 36-51% B over 5 min where solvent A is 10 mM ammonium bicarbonate in water with 5% MeOH and solvent B is acetonitrile. The desired fractions are combined and diluted with saturated NaHCO3 (aq, 100 mL). The mixture is extracted with 4:1 CHCl3: isopropanol (3×100 mL). The organic layers are combined, washed with brine (1×50 mL), dried over MgSO4, filtered and concentrated to give the title compound (33 mg, 0.064 mmol): EZ/MS (m/z): 513 (M+H).

reactant | (2-Chloro-5-fluoro-6-methyl-pyrimidin-4-yl)propan-2-ol | 0.51 mmol, 104 mg | ClC1=NC(=C(C(=N1)CC(C)O)F)C | C8H10ClFN2O
reactant | N-[(4aR,7aR)-7a-Isothiazol-5-yl-4a,5,6,7-tetrahydro-4H-pyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 0.36 mmol, 125 mg | S1N=CC=C1[C@@]12N=C(SC[C@@H]1CNC2)NC(C2=CC=CC=C2)=O | C16H16N4OS2
reactant | diisopropylethylamine | 0.91 mmol, 158 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | N-[(4aR,7aR)-6-[5-Fluoro-4-(1-hydroxy-1-methyl-ethyl)-6-methyl-pyrimidin-2-yl]-7a-isothiazol-5-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 0.064 mmol, 33 mg | FC=1C(=NC(=NC1C)N1C[C@@]2(N=C(SC[C@@H]2C1)NC(C1=CC=CC=C1)=O)C1=CC=NS1)C(C)(C)O | C24H25FN6O2S2
